US03981911
Four grams (0.026 mole) of 2-cyclopentyl-2-methyl-cyclopentanone dissolved in 20 ml. of chloroform is cooled to 0°C. and 4.2 g. (0.026 mole) of bromine is added over a 40 minute interval. An aqueous 5 wt. % solution of sodium bisulfite is added to destroy the excess bromine followed by 10 wt. % aqueous sodium hydroxide solution to achieve a pH of 7. The aqueous layer is discarded after back extraction with 20 ml. of chloroform. After washing the combined chloroform layers with water and drying over magnesium sulfate, the chloroform is removed at reduced pressure. Pyridine, 20 ml., is added and the solution is refluxed for one hour, cooled and diluted with 100 ml. water. 100 Ml. of chloroform is added and the layers are separated. The chloroform layer is washed with 50 ml. of 6 molar HCl and then dried over magnesium sulfate. Evaporation gives 5-cyclopentyl-5-methyl-2-cyclopentenone suitable for use in the Diels-Alder reaction of Step 1.

reactant | 2-cyclopentyl-2-methyl-cyclopentanone | 0.026 mole, Four grams | C1(CCCC1)C1(C(CCC1)=O)C | C11H18O
reactant | bromine | 0.026 mole | BrBr | Br2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-cyclopentyl-5-methyl-2-cyclopentenone | C1(CCCC1)C1(CC=CC1=O)C | C11H16O
